US05354794
2,4-Bis-(4-butoxy-2-hydroxyphenyl)-6-[4-(phenylthio)phenyl]-s-triazine
To a 500 mL round bottomed flask equipped with a magnetic stirrer, condenser and nitrogen atmosphere are charged 2.0 g (4.2 mmol) of 2,4-bis-(2,4-dihydroxyphenyl)-6-[4-(phenylthio)phenyl]-s-triazine, 0.58 g (4.2 mmol) of potassium carbonate and 30 mL of N,N-dimethylformamide. The mixture is heated to 90° C., and the s-triazine compound dissolves readily. Bromobutane (4.5 mL, 42.0 mmol) is added all at once. The reaction mixture is heated at 90° C. for 2.5 hours and then stirred at room temperature overnight yielding a yellow precipitate. Chilled water is added and the yellow precipitate is isolated by vacuum filtration to give 2.74 g of crude product. The crude product is purified by flash chromatography with 1:1 heptane:ethyl acetate to afford 0.26 g (10%) yield of the title compound as a yellow solid; mp>250°.

reactant | 2,4-bis-(2,4-dihydroxyphenyl)-6-[4-(phenylthio)phenyl]-s-triazine | 4.2 mmol, 2.0 g | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=CC=C(C=C1)SC1=CC=CC=C1 | C27H19N3O4S
reactant | potassium carbonate | 4.2 mmol, 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | s-triazine | N1=CN=CN=C1 | C3H3N3
reactant | Bromobutane | 42.0 mmol, 4.5 mL | BrCCCC | C4H9Br
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2,4-Bis-(4-butoxy-2-hydroxyphenyl)-6-[4-(phenylthio)phenyl]-s-triazine | C(CCC)OC1=CC(=C(C=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCCC)O)C1=CC=C(C=C1)SC1=CC=CC=C1)O | C35H35N3O4S
